US08957062B2
Step D: 1-(azetidin-1-yl)-2-[4-(benzyloxy)-2-chlorophenyl]ethanone
[4-(benzyloxy)-2-chlorophenyl]acetic acid (0.52 g, 1.88 mmol) was dissolved in DMF (1 ml) and azetidine (0.161 g, 2.82 mmol), DIEA (0.99 ml, 5.64 mmol), and HATU (1.43 g, 3.76 mmol) added. The mixture was stirred at RT for 1 hr. The solution was loaded directly onto a Biotage RP C18 cartridge (30 g) and purified using a gradient eluant of 10-100% water:acetonitrile+0.05% formic acid. The volatiles were removed in vacuo to afford the title compound. LC/MS (m/z): 316 (M+H)+.

reactant | [4-(benzyloxy)-2-chlorophenyl]acetic acid | 1.88 mmol, 0.52 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)O)Cl | C15H13ClO3
reactant | azetidine | 2.82 mmol, 0.161 g | N1CCC1 | C3H7N
reactant | DIEA | 5.64 mmol, 0.99 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 3.76 mmol, 1.43 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-(azetidin-1-yl)-2-[4-(benzyloxy)-2-chlorophenyl]ethanone | N1(CCC1)C(CC1=C(C=C(C=C1)OCC1=CC=CC=C1)Cl)=O | C18H18ClNO2
